US08802670B2
To a solution of piperidone (317 mg) and potassium carbonate (530 mg) in acetonitrile at room temperature (20 mL) was added 2-bromoethyl methyl ether (0.48 mL). The reaction mixture was heated at reflux for 16 h, allowed to cool to room temperature and then reduced in vacuo. The residue was then redissolved in dichloromethane (20 mL) and washed with water (20 mL) and brine (20 mL), dried (MgSO4) and reduced in vacuo to give 1-(2-methoxy-ethyl)-piperidin-4-one as colourless oil (171 mg).

reactant | piperidone | 317 mg | N1C(CCCC1)=O | C5H9NO
reactant | potassium carbonate | 530 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl methyl ether | 0.48 mL | COCCBr | C3H7BrO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(2-methoxy-ethyl)-piperidin-4-one | 171 mg | COCCN1CCC(CC1)=O | C8H15NO2
